US04144047
Preparation of 5-(m-Tolyl)-1,3,4-Oxathiazol-2-One
m-Toluamide (116 g, 0.86 mol) and chlorocarbonylsulfenyl chloride (144 g, 1.1 mol, 28% excess) were heated to 100° C. in 400 ml of toluene, with stirring, for 5.5 hours. Cooling resulted in an orange solid. The solid, isolated by filtration, was dissolved in hot methylcyclohexane and decolorized. The light yellow product was recrystallized once from methyl-cyclohexane to give 76.05 g (45.8%) of white solid, m.p. 82. 5°-84°.

reactant | m-Toluamide | 0.86 mol, 116 g | C1(=CC(=CC=C1)C(=O)N)C | C8H9NO
reactant | chlorocarbonylsulfenyl chloride | 1.1 mol, 144 g | ClC(=O)SCl | CCl2OS
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
solvent | methylcyclohexane | CC1CCCCC1 | C7H14
product | 5-(m-Tolyl)-1,3,4-Oxathiazol-2-One | 76.05 g, 45.8% | C1(=CC(=CC=C1)C1=NSC(O1)=O)C | C9H7NO2S
